US07491720B2
(10) Synthesis of 2-(((tert-butyl(dimethyl)silyl)oxy)methyl)-6-((1-((2-(trimethylsilyl)ethoxy]methyl)-1H-pyrazol-3-yl)amino)pyridin-4-yl trifluoromethanesulfonate
9.7 ml of trifluoromethanesulfonic anhydride was added to a mixture of 12.9 g of 2-(((tert-butyl(dimethyl)silyl)oxy)methyl)-6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyridin-4-ol, 14.2 g of 4-(dimethylamino)pyridine and 290 ml of chloroform at 0° C. The resulting mixture was stirred for 2 hours at room temperature and then diluted with ethyl acetate. The resulting solution was charged with 100 ml of 0.1 mol/l hydrochloric acid at 0° C. The organic layer separated was washed with saturated sodium bicarbonate, water and brine. The resulting organic layer was dried over magnesium sulfate and filtered, and the filtrate was concentrated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=10/1 to 1/1) to give the title compound.

reactant | trifluoromethanesulfonic anhydride | 9.7 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-(((tert-butyl(dimethyl)silyl)oxy)methyl)-6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyridin-4-ol | 12.9 g | [Si](C)(C)(C(C)(C)C)OCC1=NC(=CC(=C1)O)NC1=NN(C=C1)COCC[Si](C)(C)C | C21H38N4O3Si2
reactant | chloroform | 290 ml | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 0.1 mol/l, 100 ml | Cl | ClH
catalyst | 4-(dimethylamino)pyridine | 14.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(((tert-butyl(dimethyl)silyl)oxy)methyl)-6-((1-((2-(trimethylsilyl)ethoxy]methyl)-1H-pyrazol-3-yl)amino)pyridin-4-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=NC(=C1)NC1=NN(C=C1)COCC[Si](C)(C)C)CO[Si](C)(C)C(C)(C)C)(F)F | C22H37F3N4O5SSi2
